US05554579
Preparation of dimethyl 1-methylpyrazolo[4,3-b]pyridine-5,6-dicarboxylate
Dimethylformamide (7.4 mL, 0.096 mol) is dissolved in 125 mL dichloroethane and the mixture cooled -5° C. in an acetone/ice bath. Phosphorous oxychloride (8.9 mL, 0.095 mol) is added in one portion and the clear colorless solution is allowed to warm slowly to room temperature, gradually turning yellow. The unpurified dimethyl [(1-methylpyrazol-4-yl)amino]butenedicarboxylate is dissolved in 75 mL of dichloroethane and added chilled Viismeier reagent dropwise keeping the reaction temperature below 5° C. The mixture is allowed to warm slowly to room temperature over four hours, and then is heated to reflux for one hour. The mixture is concentrated to a solid which is chromatographed using 3:1 hexanes/ethyl acetate. The fractions containing the desired product are combined and concentrated to give the product as a white solid (16.93 g, 71.4%), melting point 148°-149° C.

reactant | Dimethylformamide | 0.096 mol, 7.4 mL | CN(C=O)C | C3H7NO
reactant | Phosphorous oxychloride | 0.095 mol, 8.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl [(1-methylpyrazol-4-yl)amino]butenedicarboxylate | CN1N=CC(=C1)NC(=C(C(=O)OC)C(=O)OC)CC | C12H17N3O4
reactant | Viismeier reagent | C[N+](=CCl)C.[Cl-]
solvent | dichloroethane | 125 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 75 mL | ClC(C)Cl | C2H4Cl2
product | dimethyl 1-methylpyrazolo[4,3-b]pyridine-5,6-dicarboxylate | 16.93 g, 71.4% | CN1N=CC2=NC(=C(C=C21)C(=O)OC)C(=O)OC | C11H11N3O4
